### ISSUE TITLE
Cannot use binderNameHint to control binders of simp congruence rules

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#7052]
In https://github.com/leanprover/lean4/pull/6947 we added a gadget to give more control over binder names when rewriting. It was pointed out on Zulip that losing binder names while `simp`’ing is seriously annoying, but unfortunately the given example isn't covered by `binderNameHint` so far, because the binder is lost due to a congr rule, not due to rewriting. Here is a mathlib free example:

```
section no_congr
/--
error: tactic 'fail' failed
xs : List Nat
⊢ xs = List.map (fun y => 1 + y) xs
-/
#guard_msgs in
example : xs = List.map (fun y => 1 + (y + 1 - 1)) xs := by
  simp
  fail

end no_congr

section with_congr

/--
info: List.map_congr_left.{u_1, u_2} {α✝ : Type u_1} {l : List α✝} {α✝¹ : Type u_2} {f g : α✝ → α✝¹}
  (h : ∀ (a : α✝), a ∈ l → f a = g a) : List.map f l = List.map g l
-/
#guard_msgs in
#check List.map_congr_left

attribute [local congr] List.map_congr_left

/--
error: tactic 'fail' failed
xs : List Nat
⊢ xs = List.map (fun a => 1 + a) xs
-/
#guard_msgs in
example : xs = List.map (fun y => 1 + (y + 1 - 1)) xs := by
  simp -- NB: Changes variable name!
  fail

end with_congr

section with_congr_hint

-- Trying to use the binderNameHint on a congruence rule


--  this loops: 
theorem List.map_congr_left' {f g : α → β}  (h : ∀ (a : α), a ∈ l → (f a = g a)) : List.map f l = List.map (fun x => binderNameHint x f (g x)) l  :=
  List.map_congr_left h

-- this is not effective
theorem List.map_congr_left'' {f g : α → β}  (h : ∀ (a : α), a ∈ l → (binderNameHint a f (f a) = g a)) : List.map f l = List.map g l  := List.map_congr_left h

attribute [congr] List.map_congr_left''

/--
error: tactic 'fail' failed
xs : List Nat
⊢ xs = List.map (fun a => 1 + a) xs
-/
#guard_msgs in
example : xs = List.map (fun y => 1 + (y + 1 - 1)) xs := by
  simp -- the binderNameHint is not effective on congruence rules yet :-()
  fail

end with_congr_hint
```

It might help to insert something like
```
let rhs ← if type.hasBinderNameHint then rhs.resolveBinderNameHint else pure rhs
```
on the premises produced from applying a congr rule. Then the last variant tried above should work.

### Context

https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Possible.20improvements.20to.20Lean.2FMathlibiption of what actually happens]

### Versions
Lean 4.18.0-nightly-2025-02-11

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
